US05712388
In a nitrogen atmosphere, 33.1 g (1.00 mole) of (2S,3R)-2-aminomethyl-3-hydroxybutyric acid were suspended in 500 ml of butanol, stirred at room temperature, 122.5 g (1.03 moles) of thionyl chloride were added dropwise during a time period of 30 minutes, and the resultant composition was stirred overnight at 35° C. After a high speed liquid chromatography confirmed the disappearance of the starting material, the butanol was eliminated in vacuo from the reaction solution. 100 ml of xylene were added to the residue and removed in vacuo with a trace of butanol, to obtain 229.5 g of oily and viscous crude product of n-butyl (2s,3R)-2-aminomethyl-3-hydroxybutyrate hydrochloride. Yield was 102%.

reactant | (2S,3R)-2-aminomethyl-3-hydroxybutyric acid | 1.00 mole, 33.1 g | NC[C@H](C(=O)O)[C@@H](C)O | C5H11NO3
reactant | thionyl chloride | 1.03 moles, 122.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | butanol | 500 ml | C(CCC)O | C4H10O
product | n-butyl (2s,3R)-2-aminomethyl-3-hydroxybutyrate hydrochloride | Yield was 102% | Cl.NC[C@H](C(=O)OCCCC)[C@@H](C)O | InChI=1S/C9H19NO3.ClH/c1-3-4-5-13-9(12)8(6-10)7(2)11;/h7-8,11H,3-6,10H2,1-2H3;1H/t7-,8+;/m1./s1
